US07153863B2
To a cold (−78° C.) solution of 4-(2-benzylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopentyl-2-pyrimidinamine (207 mg, 0.560 mmol) in tetrahydrofuran (7 mL) was added lithium diisopropylamide (17.5 mL, 0.16 M in tetrahydrofuran, 2.80 mmol). The reaction mixture was stirred at −78° C. for 45 minutes, then carbon tetrachloride (542 μl, 5.60 mmol) was added. The reaction mixture was stirred for an additional 30 minutes at −78° C. The reaction mixture was quenched with water, warmed to room temperature, and extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration, followed by flash chromatography (4:1 hexanes:ethyl acetate) provided 4-(2-benzyl-7-chloropyrazolo[1,5-a]pyridin-3-yl)-N-cyclopentyl-2-pyrimidinamine (60 mg, 27%) as a yellow solid. 1H NMR (CDCl3) δ 8.35 (d, 1H), 8.21 (d, 1H), 7.35–7.16 (m, 6H), 7.04 (d, 1H), 6.64 (d, 1H), 5.20 (d, 1H), 4.60 (s, 2H), 4.37 (m, 1H), 2.09 (m, 2H), 1.82–1.48 (m, 6H); MS m/z 404 (M+1).

reactant | 4-(2-benzylpyrazolo[1,5-a]pyridin-3-yl)-N-cyclopentyl-2-pyrimidinamine | 0.560 mmol, 207 mg | C(C1=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1CCCC1 | C23H23N5
reactant | lithium diisopropylamide | 2.80 mmol, 0.16 M, 17.5 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | carbon tetrachloride | 5.60 mmol, 542 μl | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 4-(2-benzyl-7-chloropyrazolo[1,5-a]pyridin-3-yl)-N-cyclopentyl-2-pyrimidinamine | 60 mg, 27% | C(C1=CC=CC=C1)C1=NN2C(C=CC=C2Cl)=C1C1=NC(=NC=C1)NC1CCCC1 | C23H22ClN5
